US07319099B2
(b) 2-Methoxy-4-piperazin-1-yl-[1,3,5]triazine
Prepared in analogy to example 4.10 (c) from 4-(4-Methoxy-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester and trifluoroacetic acid. MS (m/e): 196.4 (MH+, 100%)

reactant | 4-(4-Methoxy-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=N1)OC | C13H21N5O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Methoxy-4-piperazin-1-yl-[1,3,5]triazine | COC1=NC=NC(=N1)N1CCNCC1 | C8H13N5O
